US04347358
123 mg of tri-n-propylchlorosilane were added to a suspension of 312 mg of 7-benzamido-2-bromo-3-bromomethyl-3-cephem-4-carboxylic acid-1-oxide (prepared by the process of Step D of Example 1) in 25 ml of 1,2-dichloroethane under a nitrogen atmosphere and then a solution of 64 mg of triethyl-amine in 4 ml of 1,2-dichloroethane was dropwise added over 15 minutes under cooling in an ice-bath. The clear, slightly yellow colored solution was stirred for two hours at room temperature and after removal of the solvent under vacuo, 7 ml of diethyl ether was added. The obtained suspension was centrifuged and the clear liquid layer was separated and evaporated to dryness under vacuo. The residue was kept at a pressure of 0.5 mm of mercury for half an hour to obtain 210 mg of tri-n-propylsilyl 7-benzamido-2-bromo-3-bromomethyl-3-cephem-4-carboxylate-1-oxide having the following characteristics:

reactant | tri-n-propylchlorosilane | 123 mg | C(CC)[Si](Cl)(CCC)CCC | C9H21ClSi
reactant | 7-benzamido-2-bromo-3-bromomethyl-3-cephem-4-carboxylic acid-1-oxide | 312 mg | C(C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(C(S2=O)Br)CBr)C(=O)O)C1=O | C15H12Br2N2O5S
reactant | triethyl-amine | 64 mg | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 25 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 4 ml | ClCCCl | C2H4Cl2
product | tri-n-propylsilyl 7-benzamido-2-bromo-3-bromomethyl-3-cephem-4-carboxylate-1-oxide | 210 mg | C(C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(C(S2=O)Br)CBr)C(=O)O[Si](CCC)(CCC)CCC)C1=O | C24H32Br2N2O5SSi
